US07550480B2
15e) 1,5-bis(2-chlorophenyl)-7-hydroxy-2(1H)-quinolinone
1,5-bis(2-chlorophenyl)-7-methoxy-2(1H)-quinolinone (0.863 g, 2.178 mmol) was dissolved in dichloromethane (40 ml) and 1M boron tribromide in dichloromethane (12 ml) added slowly under nitrogen. The solution was stirred at 21° for 4 h, then quenched carefully with methanol (3 ml) and ice (25 g). The mixture was passed through a hydrophobic frit, and the aqueous phase further extracted with dichloromethane (20 ml), and passed through a hydrophobic frit. The dichloromethane extracts were combined and evaporated in vacuo to afford the title compound as a dark solid (0.784 g, 94%).

reactant | 1,5-bis(2-chlorophenyl)-7-methoxy-2(1H)-quinolinone | 2.178 mmol, 0.863 g | ClC1=C(C=CC=C1)N1C(C=CC2=C(C=C(C=C12)OC)C1=C(C=CC=C1)Cl)=O | C22H15Cl2NO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 1,5-bis(2-chlorophenyl)-7-hydroxy-2(1H)-quinolinone | 0.784 g, 94% | ClC1=C(C=CC=C1)N1C(C=CC2=C(C=C(C=C12)O)C1=C(C=CC=C1)Cl)=O | C21H13Cl2NO2
